US08710061B2
To a solution of 2,4-dichloro-7-(6-(trifluoromethyl)pyridin-3-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (33 mg, 0.099 mmol) in NMP (Volume: 5 mL) was added methanamine (0.247 mL, 0.494 mmol). The reaction mixture was stirred at room temperature for 2 h. The product was partitioned between ethyl acetate & water. The organic layers were combined and dried in vacuum to afford 2-chloro-N-methyl-7-(6-(trifluoromethyl)pyridin-3-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (8 mg, 0.024 mmol, 24.64% yield). LC-MS (M+H)+=329.0.

reactant | 2,4-dichloro-7-(6-(trifluoromethyl)pyridin-3-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.099 mmol, 33 mg | ClC=1N=C(C2=C(N1)C(CC2)C=2C=NC(=CC2)C(F)(F)F)Cl | C13H8Cl2F3N3
reactant | methanamine | 0.494 mmol, 0.247 mL | CN | CH5N
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 2-chloro-N-methyl-7-(6-(trifluoromethyl)pyridin-3-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.024 mmol, 8 mg, 24.64% yield | ClC=1N=C(C2=C(N1)C(CC2)C=2C=NC(=CC2)C(F)(F)F)NC | C14H12ClF3N4
